US06949579B2
246 mg of 4-iodopyridine, 10 cm3 of water, 201 mg of sodium carbonate and 69 mg of tetrakis(triphenylphosphine)palladium are added to 320 mg of N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of dioxane. The medium is refluxed for 20 hours, the mixture is then allowed to return to room temperature and 50 cm3 of ethyl acetate and 50 cm3 of water are added. The combined organic phases are washed with 50 cm3 of distilled water and then with 50 cm3 of saturated aqueous sodium chloride solution, and then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). 280 mg of N-[6-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow oil.

reactant | 4-iodopyridine | 246 mg | IC1=CC=NC=C1 | C5H4IN
reactant | sodium carbonate | 201 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 320 mg | CC1(OB(OC1(C)C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C | C23H38BN3O4Si
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 cm3 | O | H2O
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 10 cm3 | O | H2O
product | N-[6-(4-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 280 mg | N1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C22H30N4O2Si
